US06174881B1
A, solution of 2.3 g of 2-amino-7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine and 0.87 g of 1,3-dichloroacetone in 65 ml of dioxan was treated with 0.6 g of anhydrous sodium hydrogen carbonate and the mixture was stirred at 100° C. for 24 h. A further 0.09 g of dichloroacetone and 0.06 g of anhydrous sodium hydrogen carbonate were added and the mixture was stirred at 100° C. for a further 5 h. The mixture was evaporated in a vacuum and the residue was partitioned between chloroform and saturated aqueous sodium hydrogen carbonate solution. The aqueous phase was extracted three times with chloroform. The chloroform extracts were dried over sodium sulphate and chromatographed over 200 g of silica gel. With dichloromethane/ethanol 197:3 there were eluted small amounts of impurities, with dichloromethane/ethanol 195:5 there were eluted 1.3 g of the desired product. After recrystallization from ethyl acetate there were obtained 1.21 g of 2-chloromethyl-8-iodo-6-(2-pyridyl)-4H-imidazo [1,2-a][1,4]benzodiazepine of m.p. 216° C. (dec.).

reactant | 2-amino-7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine | 2.3 g | NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)I | C14H11IN4
reactant | 1,3-dichloroacetone | 0.87 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 0.6 g | C(O)([O-])=O.[Na+]
reactant | dichloroacetone | 0.09 g | ClC(C(C)=O)Cl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 0.06 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 65 ml | O1CCOCC1 | C4H8O2
product | 2-chloromethyl-8-iodo-6-(2-pyridyl)-4H-imidazo [1,2-a][1,4]benzodiazepine | 1.21 g | ClCC=1N=C2N(C3=C(C(=NC2)C2=NC=CC=C2)C=C(C=C3)I)C1 | C17H12ClIN4
